US07112698B2
(E)-1-(4-butoxyphenyl)-3-(3,5-dimethoxyphenyl)prop-1-en-3-one (DMU-176)
To a stirred solution of 4-butoxybenzaldehyde (0.5 g, 2.8 mmol) and 3,5-dimethoxyacetophenone (0.5 g, 2.8 mmol) in methanol (10 ml) was added 50% w/v of aqueous sodium hydroxide (2.24 ml, 0.028 mol). The reaction mixture was stirred for 2 h at room temperature and then extracted with ethyl acetate (3×20 ml), the combined organic layers were dried over magnesium sulphate and reduced in vacuo. The product was recrystallised from ethanol to give 0.925 g (97%) of off-white crystals. 1H-NMR (CDCl3) δ 7.8 (d, 1H), 7.6 (d, 2H), 7.35 (d, 1H), 7.1 (d, 2H), 6.9 (d, 2H), 6.7 (t, 1H), 4.0 (t, 2H), 3.85 (s, 6H), 1.75 (m, 2H), 1.5 (m, 2H), 1.0 (t, 3H). 13C-NMR (CDCl3) δ 191.1, 161.4, 160.8, 144.9, 140.8, 130.2, 127.3, 119.6, 114.9, 106.3, 104.8, 67.9, 55.6, 31.2, 19.2, 13.8. Mass Spectrum m/e (M+1) 341.

reactant | 4-butoxybenzaldehyde | 2.8 mmol, 0.5 g | C(CCC)OC1=CC=C(C=O)C=C1 | C11H14O2
reactant | 3,5-dimethoxyacetophenone | 2.8 mmol, 0.5 g | CC(=O)C1=CC(=CC(=C1)OC)OC | C10H12O3
reactant | sodium hydroxide | 0.028 mol, 2.24 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (E)-1-(4-butoxyphenyl)-3-(3,5-dimethoxyphenyl)prop-1-en-3-one | 0.925 g, 97% | C(CCC)OC1=CC=C(C=C1)\C=C\C(=O)C1=CC(=CC(=C1)OC)OC | C21H24O4
